US04260832
To 1.15 grams of metallic sodium (0.05 moles) was added to 59 grams of 1,6-hexanediol (0.5 moles) in a 250 ml flask fitted with a water trap and the mixture was stirred until the sodium dissolved. There was then added 20.6 grams of 2,6-di-tert.-butylphenol (0.1 mole) and the mixture was heated for 7.5 hours at 225° C. The mixture was allowed to cool and the base was neutralized by the addition of 5 ml. of concentrated hydrochloric acid. Sodium chloride from neutralization of the base was removed by filtration and the filtrate was distilled under vacuum. There was obtained 20.4 grams (66.6% yield) of 6-(3,5-di-tert.-butyl-4-hydroxyphenyl)hexanol.

reactant | sodium | 0.05 moles, 1.15 grams | [Na] | Na
reactant | 1,6-hexanediol | 0.5 moles, 59 grams | C(CCCCCO)O | C6H14O2
reactant | 2,6-di-tert.-butylphenol | 0.1 mole, 20.6 grams | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | hydrochloric acid | Cl | ClH
product | 6-(3,5-di-tert.-butyl-4-hydroxyphenyl)hexanol | 20.4 grams, 66.6% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCCCCCO | C20H34O2
